2150-08-30 10:38:00 Physician Attending Progress Note
Chief Complaint: HHS, seizures, lactic acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Intermittently decreased urine output received additional 2.5L fluid
   challenge with little response of his urine output. Creatinine baseline
   about 2.2. EEG performed. MRi/MRA scheduled for noon today.
   Allergies:
   Enalapril
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2150-8-29**] 11:00 AM
   Ceftriaxone - [**2150-8-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-8-30**] 08:30 AM
   Other medications:
   [**Last Name (LF) 10141**], [**First Name3 (LF) 5**] 81, vitamin C, valsartan, simvastatin, minoxidil, lopressor,
   clonidine, insulin 5NPH [**Hospital1 **], sliding scale, colace [**Hospital1 **], ceftriaxone,
   azithromycin, ceftriaxone.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-30**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 63 (63 - 81) bpm
   BP: 129/70(84) {94/39(60) - 159/84(99)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,733 mL
                                                                  2,842 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  4,133 mL
                                                                  2,602 mL
   Blood products:
   Total out:
                                                                  1,161 mL
                                                                    190 mL
   Urine:
                                                                    761 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,572 mL
                                                                  2,652 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, vitiligo anterior chest
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, left facial droop
   Labs / Radiology
   9.1 g/dL
   127 K/uL
   150 mg/dL
   2.4 mg/dL
   24 mEq/L
   4.0 mEq/L
   36 mg/dL
   113 mEq/L
   144 mEq/L
   27.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2150-8-29**]  10:53 AM
                             [**2150-8-29**]  06:33 PM
                             [**2150-8-30**]  04:03 AM
   WBC
   7.0
   Hct
   27.7
   Plt
   127
   Cr
   2.1
   2.1
   2.4
   Glucose
   293
   99
   150
   Other labs: PT / PTT / INR:13.0/34.3/1.1, CK / CKMB / Troponin-T:124//,
   Lactic Acid:3.4 mmol/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR resolved atelectasis in the LLL.
   Microbiology: Culture no growth to date.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):
   Baseline creatinine about 2.2, urine output borderline many be simply
   secondary to his Chronic renal insufficiency, yet still prerenal by
   FEUN, but failed fluid challenge. Will allow him to reequilibrate and
   follow up creatinine. HOld off onhome torsemide for now. No current
   signs of volume overload.
 HYPERTENSION, BENIGN:
   Holding bblocker, and minoxidiol, and monitoring BP, contniue
   clonidine, and valsartan.
 HYPERGLYCEMIA;
   HONK [**1-12**] to prednisone, improved on NPH. Will readjust to home dose
   once diet is well estabilished wtih lantus qhs.
 SEIZURE, WITHOUT STATUS EPILEPTICUS:
   likely in setting of metabolic abnormality from HONK + old seizure
   focus, f/u EEG, f/u MRI/MRA today. Hold off on further anti-seizure
   medications for now. Neuro following.
Mental status improved: ? related to ativan, f/u CSF culture data
PNA: no signs of this, CXR clear today, will stop ceftriazxone and
   azithro.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-8-29**] 05:19 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU after MRI/MRA can transfer to floor if mental status
   improved.
   Total time spent: 35 minutes

2150-08-31 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2150-8-30**] 12:30 PM
   - less somnolent today
   - MRI/MRA completed with no acute infarction; new chronic microvascular
   infarcts since [**2142**]
   - d/c'ed ceftriaxon and azithro
   - changed insulin regimen to glargine
   - urine lytes c/w prerenal
   - neuro recs: hold off on starting AEDs for now and follow him
   clinically. Would also advise him not to drive for 6 months given his
   diabetes and recent seizures. Should follow up in epilepsy clinic.
   - EEG: no seizures per neuro attdg
   - hypertensive in the late afternoon, gave home bp meds and improved
   - agitated overnight, needed redirection several times, given haldol
   0.5 mg x 1, and restrained as pulling off leads, gown.
   - called out but no bed
   Allergies:
   Enalapril
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2150-8-29**] 11:00 AM
   Ceftriaxone - [**2150-8-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-8-31**] 12:15 AM
   Haloperidol (Haldol) - [**2150-8-31**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-31**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 92 (63 - 98) bpm
   BP: 189/70(97) {92/40(57) - 189/88(104)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,770 mL
                                                                    600 mL
   PO:
                                                                  1,080 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  2,690 mL
   Blood products:
   Total out:
                                                                    557 mL
                                                                    325 mL
   Urine:
                                                                    557 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,213 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   HEENT- NC/AT, EOMI, PERRL,
   Neck: supple, JVP not elevated
   Cor-Tachycardic, normal S1 + S2, no m/r/g,  2+ carotid, radial, DP/PT
   pulses
   Pulm- lungs CTA b/l; no wheezes, rales, or rhonchi, no supraclavicular
   or subcostal retractions
   Abd- s/nt/nd, +BS, no hernia, no scars, no rebound or guarding, no
   organomegaly,
   Skin- no rashes, lesions
   Extremities/Spine:  extremities warm and well perfused, no clubbing,
   cyanosis, trace lower extremity edema
   Neurologic: no focal deficits, CN II-XII intact, moving all 4
   extremities independently,
   Labs / Radiology
   158 K/uL
   10.9 g/dL
   117 mg/dL
   2.3 mg/dL
   22 mEq/L
   3.6 mEq/L
   33 mg/dL
   109 mEq/L
   144 mEq/L
   34.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2150-8-29**]  10:53 AM
                             [**2150-8-29**]  06:33 PM
                             [**2150-8-30**]  04:03 AM
                             [**2150-8-31**]  04:59 AM
   WBC
   7.0
   6.6
   Hct
   27.7
   34.4
   Plt
   127
   158
   Cr
   2.1
   2.1
   2.4
   2.3
   Glucose
   293
   99
   150
   117
   Other labs: PT / PTT / INR:13.0/34.3/1.1, CK / CKMB / Troponin-T:124//,
   Lactic Acid:3.4 mmol/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   72 yo M w/ hyperglycemia, hypernatremia, hypertension and seizure,
   mental status improving.
   .
   #Seizure: Possile causes are hyperglycemia vs could be due to prior CVA
   seen on CT scan. CSF w/ 2 WBCs and 1 RBC so does not appear
   meningitis/encephalitis. Tox screen negative. His altered mental status
   is now likely post ictal vs from ativan. but seems to be clearing.
   - monitor glucose
   - Dilantin 1g loading dose if seizes again
   - MRI/MRA to look for CVA
   - F/u CSF cultures
   - F/u Neuro recs
   - EEG f/u result
   .
   # ? L facial droop: MRI no new acute events.
   - Neuro following
   .
   #HTN: Urgency on arrival to the ICU. HTN may have been from Sz, now
   improved. His somnolence seemed to improve w/ treatment of BP. Likely
   that he missed a dose or two of his home meds. He is on minoxidil so
   likely very poorly controlled HTN at baseline.
   - Restarted home meds, but with holding parameters
   - monitor BPs
   #  Hyperglycemia/Diabetes: improved significantly with hydration.
   Likely worse due to recent prednisone use.
   - Insulin SS
   - NPH as long acting [**Hospital1 7**]
 start glargine tonight
   - FS QIDACHS
   .
   # Acute renal failure: Cr was elevated on admission, was improving with
   fluids then night prior UO decreased and Cr rose again. Concerning for
   prerenal state in setting of HHS.  FeNa/Fe Urea c/w prerenal this AM.
   - PM renal function
   - monitor UOP
   - hold diuretics
   # Pneumonia: Less likely given CXR findings improved today, afebrile,
   no coughing
   - d/c ceftriaxone/azithro
   .
   # dCHF: Volume down currently
   - Continue metoprolol, valsartan
   - Hold torsemide given dehydration, can restart if s/s of volume
   overload
   .
   # Gout : stable
   - continue allopurinol
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals  18g x2
   .
   # Code: Confirmed full
   .
   # Communication: Wife [**Name (NI) **] [**Telephone/Fax (1) 10111**]
   .
   # Disposition: called out to the floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-8-29**] 05:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2150-8-31**] 14:30 ------

2150-08-31 11:10:00 Physician Attending Progress Note
Chief Complaint: Hyperosmolar hyperglycemic state, seizure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Agitation sundowning overnight. EEG and MRI read pending.
   History obtained from Patient
   Allergies:
   Enalapril
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2150-8-29**] 11:00 AM
   Ceftriaxone - [**2150-8-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2150-8-31**] 12:50 AM
   Heparin Sodium (Prophylaxis) - [**2150-8-31**] 08:11 AM
   Other medications:
   MVI, ASA 81, vitaminC, valsartan, simvastatin, mioxidil, colace,
   glargine, HISS.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-8-31**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 73 (63 - 98) bpm
   BP: 137/66(83) {92/40(57) - 189/88(104)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,770 mL
                                                                    840 mL
   PO:
                                                                  1,080 mL
                                                                    840 mL
   TF:
   IVF:
                                                                  2,690 mL
   Blood products:
   Total out:
                                                                    557 mL
                                                                    325 mL
   Urine:
                                                                    557 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,213 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   158 K/uL
   117 mg/dL
   2.3 mg/dL
   22 mEq/L
   3.6 mEq/L
   33 mg/dL
   109 mEq/L
   144 mEq/L
   34.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2150-8-29**]  10:53 AM
                             [**2150-8-29**]  06:33 PM
                             [**2150-8-30**]  04:03 AM
                             [**2150-8-31**]  04:59 AM
   WBC
   7.0
   6.6
   Hct
   27.7
   34.4
   Plt
   127
   158
   Cr
   2.1
   2.1
   2.4
   2.3
   Glucose
   293
   99
   150
   117
   Other labs: PT / PTT / INR:13.0/34.3/1.1, CK / CKMB / Troponin-T:124//,
   Lactic Acid:3.4 mmol/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: EEG negative for epileptic activity
   MRI/MRA motion limited chronic vascular infarcts and microvascular
   changes otherwise stable.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):
   Stable creatinine at baseline. Keep fluid balance even
 ACUTE CONFUSION:
   resolving, alert and oriented x3 now. EEG iwth no seizure, MRI iwth no
   acute event, likely post ictal state, benzodiazepine effect.
 HYPERGLYCEMIA:
   Sugar in better control, restarted on glargine, continue HISS.
Sundowning: behavioral control, prn haldol
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-8-29**] 05:19 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   Exam not entered above exam findings:
   Oriented x3, awake alert, lungs clear heart regular, abdomen soft LE,
   with no edema.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 10164**], MD
   on:[**2150-8-31**] 11:52 ------

2150-09-01 11:57:00 Physician Attending Progress Note
Chief Complaint: Seizures, hyperglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 CALLED OUT awaiting bed.
   Allergies:
   Enalapril
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2150-8-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-8-31**] 10:14 PM
   Other medications:
   MVI, asa 81, Vitamin C, valsartin, simvastatin, clonidine, colace,
   HISS, lantus s/c
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-9-1**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 59 (55 - 82) bpm
   BP: 118/49(65) {103/47(61) - 177/76(95)} mmHg
   RR: 24 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
                  Total In:
                                                                  1,440 mL
                                                                    120 mL
   PO:
                                                                  1,440 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    300 mL
   Urine:
                                                                  1,055 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    385 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, facial droop resolved
   Labs / Radiology
   9.4 g/dL
   125 K/uL
   101 mg/dL
   2.3 mg/dL
   23 mEq/L
   4.2 mEq/L
   34 mg/dL
   116 mEq/L
   147 mEq/L
   29.2 %
   3.8 K/uL
        [image002.jpg]
                             [**2150-8-29**]  10:53 AM
                             [**2150-8-29**]  06:33 PM
                             [**2150-8-30**]  04:03 AM
                             [**2150-8-31**]  04:59 AM
                             [**2150-9-1**]  04:45 AM
   WBC
   7.0
   6.6
   3.8
   Hct
   27.7
   34.4
   29.2
   Plt
   127
   158
   125
   Cr
   2.1
   2.1
   2.4
   2.3
   2.3
   Glucose
   293
   99
   150
   117
   101
   Other labs: PT / PTT / INR:13.0/34.3/1.1, CK / CKMB / Troponin-T:124//,
   Lactic Acid:3.4 mmol/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
Seizure: neuro exam improved, MRI,. EEG negative
Ambulation: consult PT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):
   resolved back at baseline.
 HYPERTENSION, BENIGN:
   continue home regimen. hold off resuming home diuretics for now given
   hypernateremia
Hypernatremia: recheck lytes, continue po diet.
 Diabetes: continue glargine
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: glargine
   Lines:
   18 Gauge - [**2150-8-29**] 05:19 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2150-9-1**] 12:05 ------